US06335360B1
4-Fluoroindole-2-carboxylic acid methyl ester
25 4-Fluoroindole-2-carboxylic acid (0.65 g, 3.40 mmol) was dissolved in methanol (50 ml), and 4-toluenesulfonic acid (1.4 g, 7.36 mmol) was added under nitrogen. The solution was stirred at reflux for 24 hours. Most of the methanol was removed by evaporation, and the residue was dissolved in dicholoromethane (100 ml), washed with saturated sodium carbonate, and the organic layer was separated. The aqueous layer was extracted with dichloromethane (3×50 ml). The combined organic layers were washed with water, dried over sodium sulphate, and evaporated to yield a yellow crystalline material.

reactant | 4-Fluoroindole-2-carboxylic acid | 3.40 mmol, 0.65 g | FC1=C2C=C(NC2=CC=C1)C(=O)O | C9H6FNO2
reactant | 4-toluenesulfonic acid | 7.36 mmol, 1.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 50 ml | CO | CH4O
product | 4-Fluoroindole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=CC(=C2C1)F | C10H8FNO2
